US05236952
A solution of 1.38 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone and 461 mg of thiosemicarbazide in 20 ml of n-butanol is heated to boiling under reflux for 60 minutes. After cooling to room temperature the crystals are filtered under suction and recrystallized from n-butanol. There is obtained 5-(2-amino-6H-1,3,4-thiadiazin-5-yl)-3-nitropyrocatechol hydrobromide of m.p. 265°-267°.

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 1.38 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | thiosemicarbazide | 461 mg | NNC(=S)N | CH5N3S
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | 5-(2-amino-6H-1,3,4-thiadiazin-5-yl)-3-nitropyrocatechol hydrobromide | Br.NC=1SCC(=NN1)C1=CC(=C(C(O)=C1)O)[N+](=O)[O-] | InChI=1S/C9H8N4O4S.BrH/c10-9-12-11-5(3-18-9)4-1-6(13(16)17)8(15)7(14)2-4;/h1-2,14-15H,3H2,(H2,10,12);1H
